US07705038B2
Preparation of (Z)-2-(4-Chlorophenyl)-3-(1-propanoyl-1H-pyrrol-2-yl)acrylonitrile
To a stirred solution (Z)-2-(4-chlorophenyl)-3-(1-methyl-1H-pyrrol-2-yl)acrylonitrile (this is compound 2 in Table 8) (600 mg, 2.62 mmol), triethylamine (320 mg), and 4-dimethylaminopyridine (32 mg) in dichloromethane (20 mL) was added propionic anhydride (375 mg). The mixture was stirred at room temperature for 7 h. Triethylamine (320 mg) and propionic anhydride (375 mg) was added and the mixture stirred at room temperature for 48 h. The reaction mixture was poured into ether (200 mL) and the ether was washed with 10% aqueous citric acid solution (50 mL, water (2×50 mL) and saturated brine (50 mL). The ether layer was collected, dried over magnesium sulfate, filtered and evaporated. The residue was recrystallized from ether/light petroleum to afford the title compound as yellow needles (611 mg). This is Compound 76 in Table 8.

reactant | (Z)-2-(4-chlorophenyl)-3-(1-methyl-1H-pyrrol-2-yl)acrylonitrile | ClC1=CC=C(C=C1)/C(/C#N)=C/C=1N(C=CC1)C | C14H11ClN2
reactant | triethylamine | 320 mg | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 375 mg | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Triethylamine | 320 mg | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 375 mg | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ether | 200 mL | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 32 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (Z)-2-(4-Chlorophenyl)-3-(1-propanoyl-1H-pyrrol-2-yl)acrylonitrile | 611 mg | ClC1=CC=C(C=C1)/C(/C#N)=C/C=1N(C=CC1)C(CC)=O | C16H13ClN2O
